US06884890B2
6-[N-(3-Benzamido-4-fluorophenyl)amino]-1-(2-trimethylsilanyl-ethoxymethyl-3-E-styryl1H-indazole was converted to Example 47 in a similar manner to that described for Example 11. 1H NMR (300 MHz, DMSO-d6) δ 12. (s, 1H, 10.0 (s, 1H), 8.38 (bs, 1H), 8.02 (d, 1H, J=8.78), 7.98 (d, 2H, J=6.87 Hz), 7.69 (d, 2H, J=7.27 Hz), 7.48-7.61 (m, 4H), 7.45 (s, 2H), 7.40 (t, 2H, J=7.28 Hz), 7.53-7.30 (t, 2H, J=7.28 Hz), 7.53-7.30 m, 2H), &.07 (d, 1H, J=1.55 Hz), 7.03 (m, 1H), 6.95 (dd, 1H), J=8.79 Hz, J=1.85 Hz), MS (ESI+) [M+H]/z Calc'd 449, found 449. Anal. Calc'd: C, 74.98. H, 4.72. N, 12.193 Found: C, 74.29. H, 4.76. N, 12.12. The starting material was prepared as follows: To a solution of 2-fluoro-5-nitro-phenylamine (3.12 g, 20 mmol) in dichloromethane (20 ml) at 23° C. under argon was added pyridine (1.94 ml, 24 mmol) and benzoyl chloride (2.8 ml, 24 mmol). After 45 minutes a white precipitate formed. The reaction mixture was concentrated in-vacuo then diluted with water and filtered to give a white solid which was re-suspended in MeOH and filtered again giving N-(2-fluoro-5-nitro-phenyl)-benzamide (4.86 g, 93%). H NMR (300 MHz. CDCl3) δ 9.48 (dd, 1H. 3=6.8 Hz, J=2.81 Hz), 8.17 (bs, 1H), 8.03 (m, 1H), 7.92 (m, 2H), 7.52-7.65 (m, 3H), 7.31 (d, 1H, J=9.2 Hz). A mixture of N-(2-fluoro-5-nitro-phenyl)-benzamide (4.86 g. 18.7 mmol) and 10% Pd/C (486 mg) in a 1:1 mixture of THF-MeOH (80 ml) was hydrogenated at 23° C. After 2.5 h the reaction mixture was filtered through celite and concentrated to give N-(5-Amino-2-fluoro-phenyl)-benzamide (3.92 g, 91%). MS (ESI+) [M+H]/z Calc'd 231, found 231. 6-[N-(3-Benzamido-4-fluorophenyl)amino]-1-(2-trimethylsilanyl-ethoxymethyl-3-E-styryl 1H-indazole was prepared in a similar manner as Example 48(a), step (iii) except that N-(5-amino-2-fluorophenyl)benzamide, and the compound prepared in Example 14, step (i) were used as starting materials. 1H NMR (300 MHz, CDCl3) δ 8.38 (dd, 1H, J=6.84 Hz, J=2.73 Hz), 8.09 (d, 1H, J=3.08 Hz), 7.86-7.91 (m, 3H), 7.48-7.61 (m, 5H), 7.28-7.45 (m, 4H), 7.19 (d, 1H, J=1.7 Hz), 7.08 (dd, 1H, J=10.48 Hz), 6.906.96 (n, 2H), 6.03 (bs, 1H), 5.66 (s, 2H), 3.62 (t, 2H, J=8.14 Hz), 0.91 (t, 2H, J=8.32 Hz), 0.0 (s, 9H). MS (ESI+) [M+H]/z Calc'd 579, found 579. Anal. Calc'd: C, 70.56. H, 6.10. N. 9.68. Found: C, 20.26. H, 6.08. N, 9.16.

reactant | 2-fluoro-5-nitro-phenylamine | 20 mmol, 3.12 g | FC1=C(C=C(C=C1)[N+](=O)[O-])N | C6H5FN2O2
reactant | pyridine | 24 mmol, 1.94 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 24 mmol, 2.8 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-(2-fluoro-5-nitro-phenyl)-benzamide | 18.7 mmol, 4.86 g | FC1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC=CC=C1)=O | C13H9FN2O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 486 mg | [Pd] | Pd
solvent | THF MeOH | 80 ml | C1CCOC1.CO
product | N-(5-Amino-2-fluoro-phenyl)-benzamide | 3.92 g, 91% | NC=1C=CC(=C(C1)NC(C1=CC=CC=C1)=O)F | C13H11FN2O
